US05306821
α-Methyl-α-butylbenzylamine
A suspension of MeCeCl2 was prepared as described in Example 1 from 7.5 g (20 mmol) of cerium chloride heptahydrate, 40 mL of tetrahydrofuran, and 14 mL of 1.4M methyllithium in ether (20 mmol). To this was added below -60° a solution of 1.35 g (8.4 mmol) of valerophenone imine in 5 mL of tetrahydrofuran. The mixture was stirred in a dry ice-acetone bath for 3 hours, treated below -40° slowly with 12 mL of conc. ammonium hydroxide solution, and allowed to come to room temperature. Celite™ was added, the mixture was filtered, and the solids were washed several times with methylene chloride. The dried organic layer of the filtrates was concentrated. The crude product (1.39 g) still contained ca. 10% unreacted imine as shown by 1H NMR spectroscopy. The product was dissolved in toluene and stirred with 3% phosphoric acid for 2 hours. The toluene layer was washed twice with water, and the combined aqueous phases were washed once with toluene and made basic with conc. ammonium hydroxide solution. Extraction with methylene chloride and short-path distillation of the crude product gave 0.83 g (56%) of the title compound., distilling at a bath temperature of 110° (0.005 mm). 1H NMR (in CDCl3) ∂ 0.8 (t, J=7 Hz, 3H), 1.0-1.3 (m, 4H); 1.4 (s, 3H), 1.5 (br, 2H), 1.6-1.8 (m, 2H), 7.2-7.5 (m, 5H). The hydrochloride had mp 153°-156° after crystallization from acetonitrile.

reactant | cerium chloride heptahydrate | 20 mmol, 7.5 g | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
reactant | methyllithium | 1.4M, 14 mL | C[Li]
reactant | ether | 20 mmol | CCOCC | C4H10O
reactant | valerophenone imine | 8.4 mmol, 1.35 g | C(CCCC)(C1=CC=CC=C1)=N | C11H15N
reactant | ammonium hydroxide | 12 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | α-Methyl-α-butylbenzylamine | 0.83 g, 56% | CC(C1=CC=CC=C1)(CCCC)N | C12H19N
